US04505905
3-Phenylthio-6-(2-hydroxyprop-2-yl)-7-oxobicyclo[3.2.0]-hept-2-en-2-carboxylic Acid, Diphenylmethyl Ester (37)
To a stirred solution of 60 μL of hexamethyl disilazane in 10 mL of dry tetrahydrofuran at 0° under argon was added dropwise 190 μL of butyllithium (1.37M in hexane). To this solution at -78° was added a solution of 106 mg of 3-phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester, in 1 mL of tetrahydrofuran over a 3 min period. The reaction mixture was stirred for 10 min after which time 25 μL of acetone was added. After 20 min, 50 μL of acetic acid was added, the reaction mixture was evaporated to a small volume, and partitioned between methylene chloride and water. The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was subjected to preparative thin layer chromatography on a 20×20×0.2 cm silica gel plate eluted with ether-petroleum ether (1:2) to afford 21 mg (17.4%) of solid 3 -phenylthio-6-(2-hydroxyprop-2-yl)-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester. IR (neat): 3400, 1765, 1685, 1545 cm-1 ; NMR (220 MHz; CDCl3): δ 1.17 (3H, s), 1.25 (1H, s), 1.32 (3H, s), 2.30 (1H, J=18, 3.5), 2.8-3.0 (2H, m), 3.11 (1H, dd, J=6, 3), 4.5 (1H, m), 6.93 (1H, s), and 7.2-7.6 (15H, m).

reactant | hexamethyl disilazane | 60 μL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | butyllithium | 1.37M, 190 μL | C(CCC)[Li]
reactant | 3-phenylthio-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester | 106 mg | C1(=CC=CC=C1)SC1=C(C2C(CC2C1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22O3S
reactant | acetone | 25 μL | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
product | 3-Phenylthio-6-(2-hydroxyprop-2-yl)-7-oxobicyclo[3.2.0]-hept-2-en-2-carboxylic Acid, Diphenylmethyl Ester | 21 mg, 17.4% | C1(=CC=CC=C1)SC1=C(C2C(C(C2C1)C(C)(C)O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28O4S
